US07465739B2
3-Butyl-6-methyl-2-(3,4,5-trimethoxyphenyl)-5,6,7,8-tetrahydro-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one
According to the method described for the compound No. 1 using N-butyl-3,4,5-trimethoxybenzamide a nd 2-amino-5-methyl-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid ethyl ester as starting materials.

reactant | N-butyl-3,4,5-trimethoxybenzamide | C(CCC)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C14H21NO4
reactant | 2-amino-5-methyl-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(SC1N)CCC(C2)C | C12H17NO2S
product | 3-Butyl-6-methyl-2-(3,4,5-trimethoxyphenyl)-5,6,7,8-tetrahydro-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one | C(CCC)N1C(=NC2=C(C1=O)C1=C(S2)CCC(C1)C)C1=CC(=C(C(=C1)OC)OC)OC | C24H30N2O4S
